US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-fluorophenoxy)aniline and (S)-2-(tert-butoxycarbonylamino)-5-phenylpentanoic acid, gave (S)-2-amino-N-(4-(4-fluorophenoxy)phenyl)-5-phenylpentanamide (165 mg, 21%).

reactant | 4-(4-fluorophenoxy)aniline | FC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10FNO
reactant | (S)-2-(tert-butoxycarbonylamino)-5-phenylpentanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCC1=CC=CC=C1 | C16H23NO4
product | (S)-2-amino-N-(4-(4-fluorophenoxy)phenyl)-5-phenylpentanamide | 165 mg, 21% | N[C@H](C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F)CCCC1=CC=CC=C1 | C23H23FN2O2
